US07655666B2
A solution of 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (42.0 g, 122 mmol) in toluene (400 mL) was treated with acetic anhydride (12.8 mL, 135 mmol) and the mixture was heated to reflux for 16 h under nitrogen. It was then allowed to cool to r.t. and diluted with water. The mixture was rendered neutral by adding small portions of sodium hydrogencarbonate, and the organic layer was separated. The aqueous phase was extracted with EtOAc, and the combined organic phases were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was recrystallized in hexanes to give 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (43.4 g, 112 mmol, 92%) as a white powder, m.p. 96-98° C., ESI-MS: m/z 388 [M+H]+.

reactant | 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 122 mmol, 42.0 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | acetic anhydride | 135 mmol, 12.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-acetylamino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 112 mmol, 43.4 g, 92% | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)NC(C)=O)=O | C11H9F3INO3
